US09169270B2
Synthesis of 4-(2-aminoethyl)thiazol-2-amine (C5H9N3S, MW=143.05)
A suspension of 2-[2-(2-amino-thiazol-4-yl)-ethyl]isoindole-1,3-dione hydrobromide (25.7 g, 72.6 mmol, 1 eq.) in water (125 mL) was treated with 62% hydrobromic acid in water (125 mL). The resulting suspension was then refluxed (oil bath temperature=120° C.), under N2 for 18 hours. The resulting orange homogeneous reaction mixture was allowed to cool down to r.t. (fast precipitation of a beige solid occurred). The resulting suspension was filtered and the filter cake (phthalic acid) was washed with water. The obtained orange homogeneous filtrate was then concentrated in vacuo. The remaining water was finally removed by co-evaporation with toluene (repeated several times) and the obtained residue was further dried under hv to give the dihydrobromide salt of the title compound as an orange solid. The product was used without further purification.

reactant | 2-[2-(2-amino-thiazol-4-yl)-ethyl]isoindole-1,3-dione hydrobromide | 72.6 mmol, 25.7 g, 1 eq. | Br.NC=1SC=C(N1)CCN1C(C2=CC=CC=C2C1=O)=O
reactant | hydrobromic acid | Br | BrH
solvent | water | 125 mL | O | H2O
solvent | water | 125 mL | O | H2O
product | 4-(2-aminoethyl)thiazol-2-amine | NCCC=1N=C(SC1)N | C5H9N3S
